US04317920
A mixture of 13.5 g. of 2-allyl-phenol, 13.1 g. of phenylisocyanate and 0.5 g. of pyridine is kept at 100° C. for five minutes. Petroleum ether is added whereupon the precipitated crystals are filtered off with suction and washed with petroleum ether to give 2-allyl-phenol-phenylurethane, melting at 108° C. to 109° C.

reactant | 2-allyl-phenol | C(C=C)C1=C(C=CC=C1)O | C9H10O
reactant | phenylisocyanate | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 2-allyl-phenol phenylurethane | C(C=C)C1=C(C=CC=C1)O.C1(=CC=CC=C1)NC(=O)OCC | InChI=1S/C9H11NO2.C9H10O/c1-2-12-9(11)10-8-6-4-3-5-7-8;1-2-5-8-6-3-4-7-9(8)10/h3-7H,2H2,1H3,(H,10,11);2-4,6-7,10H,1,5H2
